* Z:\home\g\Uni code\Electronic Processing and Communications (EEEE2044 UNUK)\EEEE2044 Coursework 1 - Digital Electronics\inc\Q\Q5\Q5.asc
A§DB N005 0 N006 0 0 N004 N009 0 DFLOP
A§DA N001 0 N006 0 0 0 N002 0 DFLOP
A1 N005 0 0 0 0 N008 0 0 BUF Td=40n
A2 0 N002 N004 N005 0 0 N003 0 AND Td=40n
A3 0 N008 0 N009 0 0 N007 0 AND Td=40n
A4 0 N009 0 N002 0 0 N010 0 AND Td=40n
A5 0 N003 0 N007 0 0 N001 0 OR Td=40n
V1 N005 0 PWL file="Z:\home\g\Uni code\Electronic Processing and Communications (EEEE2044 UNUK)\EEEE2044 Coursework 1 - Digital Electronics\Breif\101_testpwl.txt"
V2 N006 0 PULSE(0 1 0.5m 1n 1n 0.5m 1m 1000)
.tran 8m
.backanno
.end
