* Z:\home\g\Uni code\Electronic Processing and Communications (EEEE2044 UNUK)\EEEE2044 Coursework 1 - Digital Electronics\inc\Q\Q5\Q5.asc
A§DB x 0 clk 0 0 N004 N007 0 DFLOP Td=40n
A§DA N001 0 clk 0 0 0 N002 0 DFLOP Td=40n
A4 x 0 0 0 0 N006 0 0 BUF Td=22n
A1 0 N002 N004 x 0 0 N003 0 AND Td=27n
A2 0 N006 0 N007 0 0 N005 0 AND Td=27n
A3 0 N007 0 N002 0 0 Z 0 AND Td=27n
A5 0 N003 0 N005 0 0 N001 0 OR Td=22n
V1 x 0 PWL TIME_SCALE_FACTOR=0.00012 file="Z:\home\g\Uni code\Electronic Processing and Communications (EEEE2044 UNUK)\EEEE2044 Coursework 1 - Digital Electronics\Breif\101_testpwl.txt"
V2 clk 0 PULSE(0 1 70n 1n 1n 60n 120n 1000)
.tran 1u
.backanno
.end
